US07053212B2
Step B: [2-Methoxy-4-(tetrahydro-pyran-2-yloxy)-benzyl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine
To a solution of 2-methoxy-4-(tetrahydro-pyran-2-yloxy)-benzaldehyde (1.62 g, 6.84 mmol) and 4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine (1.345 g, 6.51 mmol) in 25 mL methylene chloride was added magnesium sulfate (2.74 g, 22.8 mmol). The reaction mixture was stirred at room temperature overnight, then was filtered and concentrated. The residue was dissolved in 25 mL of 2:1 (v/v) ethanol:methanol and was treated with sodium borohydride (1.48 g, 39.1 mmol) in portions added over 1 hr. The reaction mixture was stirred at room temperature for 2 hr. at which time it was concentrated to one-half of its original volume. To this mixture was added 25 mL water and 25 mL saturated aqueous sodium bicarbonate. The mixture was extracted with methylene chloride and the organic layer was dried (magnesium sulfate), filtered, and concentrated. Medium pressure silica gel chromatography of the residue (methylene chloride to 10% methanol/methylene chloride) afforded 1.225 g (47%) of the title compound. MS 427.2 (M+1)+

reactant | 2-methoxy-4-(tetrahydro-pyran-2-yloxy)-benzaldehyde | 6.84 mmol, 1.62 g | COC1=C(C=O)C=CC(=C1)OC1OCCCC1 | C13H16O4
reactant | 4-(2-pyrrolidin-1-yl-ethoxy)-phenylamine | 6.51 mmol, 1.345 g | N1(CCCC1)CCOC1=CC=C(C=C1)N | C12H18N2O
reactant | magnesium sulfate | 22.8 mmol, 2.74 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | sodium borohydride | 39.1 mmol, 1.48 g | [BH4-].[Na+]
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | CO | CH4O
product | [2-Methoxy-4-(tetrahydro-pyran-2-yloxy)-benzyl]-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amine | 1.225 g, 47% | COC1=C(CNC2=CC=C(C=C2)OCCN2CCCC2)C=CC(=C1)OC1OCCCC1 | C25H34N2O4
